US07884207B2
Pyridine (11.7 mL, 145 mmol), 4-dimethylaminopyridine (DMAP, 0.59 g, 4.82 mmol) and tert-butyldimethylsilyl chloride (8.71 g, 57.8 mmol) were added to a solution of 1-allylcyclohexanol (48.2 mmol) in acetonitrile (120 mL). The reaction was heated at reflux overnight, then cooled to rt and concentrated to about 50 mL under reduced pressure. The solution was cooled to 0° C. and tert-butyldimethylsilyl triflate (13.3 mL, 57.8 mmol) was added. After the solution had stirred overnight at rt, additional tert-butyldimethylsilyl triflate (5.00 mL) was added and the solution was stirred for 6 h longer. The reaction was quenched with saturated aqueous sodium bicarbonate (120 mL) and extracted with dichloromethane (100 mL, then 2×75 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated to give a colorless oil that was purified on a on a HORIZON High-Performance Flash Chromatography (HPFC) instrument (available from Biotage, Inc, Charlottesville, Va., USA) (silica gel, gradient elution with 0-5% ethyl acetate/hexanes) to afford [(1-allylcyclohexyl)oxy](tert-butyl)dimethylsilane as a colorless oil (11.96 g, 97%).

reactant | Pyridine | 145 mmol, 11.7 mL | N1=CC=CC=C1 | C5H5N
reactant | tert-butyldimethylsilyl chloride | 57.8 mmol, 8.71 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 1-allylcyclohexanol | 48.2 mmol | C(C=C)C1(CCCCC1)O | C9H16O
reactant | tert-butyldimethylsilyl triflate | 57.8 mmol, 13.3 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
reactant | tert-butyldimethylsilyl triflate | 5.00 mL | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C(C)(C)C | C7H15F3O3SSi
catalyst | 4-dimethylaminopyridine | 4.82 mmol, 0.59 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 120 mL | C(C)#N | C2H3N
product | [(1-allylcyclohexyl)oxy](tert-butyl)dimethylsilane | 11.96 g, 97% | C(C=C)C1(CCCCC1)O[Si](C)(C)C(C)(C)C | C15H30OSi
